US07351778B2
Preparation of ethyl 2-ethyl-3-benzoyloxybutyrate
Preparation of ethyl 2-allyl-3-benzoyloxybutyrate Ethyl 2-allyl-3-benzoyloxybutyrate was prepared following the procedure as described in step 2) of Preparation Example 2, except for that ethyl 2-allyl-3-hydroxybutyrate was used to replace for ethyl 3-hydroxybutyrate. Yield 75%.

reactant | ethyl 2-allyl-3-benzoyloxybutyrate Ethyl 2-allyl-3-benzoyloxybutyrate | C(C)OC(C(C(C)OC(C1=CC=CC=C1)=O)CC=C)=O.C(C=C)C(C(=O)OCC)C(C)OC(C1=CC=CC=C1)=O | 2C16H20O4
reactant | ethyl 2-allyl-3-hydroxybutyrate | C(C=C)C(C(=O)OCC)C(C)O | C9H16O3
reactant | ethyl 3-hydroxybutyrate | OC(CC(=O)OCC)C | C6H12O3
product | ethyl 2-ethyl-3-benzoyloxybutyrate | Yield 75% | C(C)C(C(=O)OCC)C(C)OC(C1=CC=CC=C1)=O | C15H20O4
